US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (408 mg) was coupled to m-tolylboronic acid to provide 3-(3-chloropropyl)-1-(3-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (39 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 408 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | m-tolylboronic acid | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | 3-(3-chloropropyl)-1-(3-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 39 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)C)(=O)=O | C17H19ClN2O2S
